US08877815B2
A solution of 1-(2-ethoxy-2-oxoethyl)cyclopentanecarboxylic acid (672 mg, 3.36 mmol), (S)-benzyl 2-amino-3-(biphenyl-4-yl)propanoate hydrochloride (957 mg, 2.60 mmol), WSC.HCl (833 mg, 4.34 mmol), 1-hydroxy-7-azabenzotriazole (591 mg, 4.34 mmol) and DIPEA (0.759 ml, 4.34 mmol) in DMF (15 ml) was allowed to stir at room temperature for 2 hours. The reaction was quenched with H2O (10 ml) and 35% NH4OH aqueous (2 ml). The mixture was stirred for 30 minutes. The product was extracted with EtOAc, washed twice with 1 M HCl aqueous, once with H2O, and then once with brine. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure. The obtained residue was purified by flash column chromatography on silica gel (heptane/EtOAc=100:0 to 60:40) to give (S)-benzyl 3-(biphenyl-4-yl)-2-(1-(2-ethoxy-2-oxoethyl)cyclopentanecarboxamido)propanoate (1.143 g).

reactant | 1-(2-ethoxy-2-oxoethyl)cyclopentanecarboxylic acid | 3.36 mmol, 672 mg | C(C)OC(CC1(CCCC1)C(=O)O)=O | C10H16O4
reactant | (S)-benzyl 2-amino-3-(biphenyl-4-yl)propanoate hydrochloride | 2.60 mmol, 957 mg | Cl.N[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)C1=CC=CC=C1
reactant | WSC.HCl | 4.34 mmol, 833 mg | CCN=C=NCCCN(C)C.Cl
reactant | 1-hydroxy-7-azabenzotriazole | 4.34 mmol, 591 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | DIPEA | 4.34 mmol, 0.759 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | (S)-benzyl 3-(biphenyl-4-yl)-2-(1-(2-ethoxy-2-oxoethyl)cyclopentanecarboxamido)propanoate | 1.143 g | C1(=CC=C(C=C1)C[C@@H](C(=O)OCC1=CC=CC=C1)NC(=O)C1(CCCC1)CC(=O)OCC)C1=CC=CC=C1 | C32H35NO5
